US06509328B1
(3-Amino-2′-fluoro-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester
Prepared from (2′-fluoro-3-nitro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example B10) by catalytic hydrogenation with Pd/C according to the general procedure G (method a). Obtained as a yellow solid (1.31 g).

reactant | (2′-fluoro-3-nitro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)[N+](=O)[O-])=O | C17H17FN2O4
catalyst | Pd/C | [Pd] | Pd
product | (3-Amino-2′-fluoro-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester | 1.31 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)N)=O | C17H19FN2O2
